US05120738
Preparation of N-(2-Oleoyloxyethyl)-3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propanamide
2-Aminoethyl oleate (3.26 g) and 2.59 g of 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid were reacted in the same manner as in Example 1 to obtain 1.75 g of the title compound (yield: 31%).

reactant | 2-Aminoethyl oleate | 3.26 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCCN | C20H39NO2
reactant | 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid | 2.59 g | CC1(OCC(C(O1)C(=O)NCCC(=O)O)(C)C)C | C12H21NO5
product | N-(2-Oleoyloxyethyl)-3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propanamide | 1.75 g, yield: 31% | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCCNC(CCNC(=O)C1OC(OCC1(C)C)(C)C)=O | C32H58N2O6
